US09403839B2
6-Bromo-2-methylpyridin-3-ol (10.5 g, 55.9 mmol) was dissolved in DMF (100 mL). K2CO3 (19.3 g, 139.6 mmol) and 2-bromopropane (13.1 ml, 139.6 mmol) were added to the solution and the mixture was heated at 100° C. overnight. The mixture was poured into a mixture of water and EtOAc (200 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×). The combined organic layers were dried (Na2SO4) and concentrated. The crude oil was purified by column chromatography (0-20% ethyl acetate/heptanes) to give 6-bromo-3-isopropoxy-2-methylpyridine (10.9 g, 85) as a yellow oil. 1H-NMR (300 MHz, CDCl3) 1.42 (d, 6H), 2.48 (s, 3H), 4.65 (m, 1H), 7.20 (d, 1H), 8.04 (d, 1H).

reactant | 6-Bromo-2-methylpyridin-3-ol | 55.9 mmol, 10.5 g | BrC1=CC=C(C(=N1)C)O | C6H6BrNO
reactant | K2CO3 | 139.6 mmol, 19.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 139.6 mmol, 13.1 ml | BrC(C)C | C3H7Br
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-3-isopropoxy-2-methylpyridine | 10.9 g | BrC1=CC=C(C(=N1)C)OC(C)C | C9H12BrNO
